US06939928B1
(1) Synthesis of 2-(cyclopentadienyl)-2-(1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo (b,h)-fluorenyl)propane
In a 200 ml three-necked flask purged with nitrogen, 3.11 g (8.04 mmol, 1 eq) of 1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorene was placed at room temperature. Then, 40 ml of dehydrated THF was added, and the mixture was stirred by a magnetic stirrer to give a solution. The solution was cooled to 2° C. with an ice bath (light yellow solution) To the solution, 5.2 ml (8.48 mmol, 1.05 eq) of n-BuLi (hexane solution) was dropwise added over a period of 10 minutes, and 10 ml of dehydrated THF was further added. The ice bath was removed, and the mixture was stirred at room temperature for 22 hours (dark red slurry). After the slurry was cooled to 0° C. with an ice bath, a solution of 1.05 ml (8.54 mmol, 1.06 eq) of 6,6-dimethylfulvene in 10 ml of dehydrated THF was dropwise added over a period of 15 minutes (dark red solution). The ice bath was removed, and the solution was stirred at room temperature for 23 hours. The resulting dark red brown solution was poured into 100 ml of a diluted hydrochloride acid solution to perform quenching. After the organic phase was washed with 100 ml of a saturated saline solution, the soluble component was extracted from the aqueous layer with 50 ml of diethyl ether. The soluble component and the dispensed organic phase were together dried over MgSO4, then the MgSO4 was filtered off, and from the filtrate the solvent was vacuum distilled off by a rotary evaporator to obtain a yellowish orange solid. The solid was purified by silica gel column chromatography (developing solvent: hexane) to obtain a white powder (2.70 g, yield: 68%).

reactant | 1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorene | 8.04 mmol, 3.11 g, 1 eq | CC1(CCC(C=2C=C3C=4C=C5C(=CC4CC3=CC21)C(CCC5(C)C)(C)C)(C)C)C | C29H38
reactant | n-BuLi | 8.48 mmol, 5.2 ml, 1.05 eq | [Li]CCCC
reactant | 6,6-dimethylfulvene | 8.54 mmol, 1.05 ml, 1.06 eq | CC(=C1C=CC=C1)C | C8H10
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(cyclopentadienyl)-2-(1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo (b,h)-fluorenyl)propane | 2.70 g, yield: 68% | C1(C=CC=C1)C(C)(C)C1C(C2=C(C=C3C=4C=C5C(=CC4CC3=C2)C(CCC5(C)C)(C)C)C(C1)(C)C)(C)C | C37H48
